US08871943B2
To a mixture of 4,5-dichloro-6-(4-methoxyphenyl)-picolinic acid (4.50 g, 15.1 mmol) in toluene (40 mL) was added thionyl chloride (1.65 mL, 22.6 mmol) and dimethylformamide (0.06 mL, 0.8 mmol). Reaction mixture was heated at 80° C. for 12 h. HPLC analysis of an aliquot of the reaction mixture treated with methanol and dimethylaminopyridine indicated complete conversion of the starting material. Reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure to provide a yellow solid. Toluene (40 mL) was added to dissolve the solid and concentrated under reduced pressure and then this process was performed a second time. 4,5-Dichloro-6-(4-methoxyphenyl)-picolinoyl chloride was isolated as a yellow solid (4.64 g, 97% yield). 1H NMR (400 MHz, CDCl3) δ 8.09 (s, 1H), 7.85-7.77 (m, 2H), 7.06-6.98 (m, 2H); 13C NMR (101 MHz, CDCl3) δ 168.91, 161.06, 158.35, 146.26, 145.13, 133.92, 131.35, 129.16, 124.13, 113.70; MS Calcd. for C13H8Cl3NO2: 314.96. Found: 253, 218.

reactant | 4,5-dichloro-6-(4-methoxyphenyl)-picolinic acid | 15.1 mmol, 4.50 g | ClC1=CC(=NC(=C1Cl)C1=CC=C(C=C1)OC)C(=O)O | C13H9Cl2NO3
reactant | thionyl chloride | 22.6 mmol, 1.65 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.8 mmol, 0.06 mL | CN(C=O)C | C3H7NO
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 4,5-Dichloro-6-(4-methoxyphenyl)-picolinoyl chloride | ClC1=CC(=NC(=C1Cl)C1=CC=C(C=C1)OC)C(=O)Cl | C13H8Cl3NO2
